US05616610
b) (R)-8-Fluoro-3-(N,N-dicyclobutylamino)-5-hydroxy-3,4-dihydro-2H-1-benzopyran
(R)-8-Fluoro-3-(N,N-dicyclobutylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran hydrochloride (0.77 g, 2.26 mmol) was dissolved in anhydrous CH2Cl2 (20 mL) and cooled to -40° C. To the solution was BBr3 (0.54 mL, 5.7 mmol), dissolved in anhydrous CH2Cl2 (3 mL), added dropwise. The cooling-bath was removed and after 2 h at room temperature the reaction was completed. The reaction was poured out onto an ice/2M NH3 solution and the mixture was extracted, twice, with (MgSO4), filtered, and the solvent removed in vacuo to diethyl ether. The combined ether portions were dried give the crude residue. Chromatography on silica (eluent: 50% ethyl acetate/hexane) gave 0.58 g (89% yield) of the title compound as a white solid. Mp: 170°-2° C. [α]21D =-114.4° (C=0.1; CHCl3) GC-MS (70 eV) M=291 (2%).

reactant | (R)-8-Fluoro-3-(N,N-dicyclobutylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran hydrochloride | 2.26 mmol, 0.77 g | Cl.FC1=CC=C(C=2C[C@H](COC21)N(C2CCC2)C2CCC2)OC
reactant | BBr3 | 5.7 mmol, 0.54 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-8-Fluoro-3-(N,N-dicyclobutylamino)-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 0.58 g, 89% yield | FC1=CC=C(C=2C[C@H](COC21)N(C2CCC2)C2CCC2)O | C17H22FNO2
